US08357703B2
6-((3-Butyl-5-methyl-isoxazol-4-yl)methoxy)-N—((S)-2,2,2-trifluoro-1-methyl-ethyl)-nicotinamide
As described for example 19b, 6-(3-butyl-5-methyl-isoxazol-4-ylmethoxy)-nicotinic acid (100 mg, 0.34 mmol) was converted, using L-2,2,2-trifluoro-1-(methyl)ethylamine (ABCR AB146651) instead of L-2,2,2-trifluoro-1-(methyl)ethylamine (ABCR F07820EFA), to the title compound (81 mg, 61%) which was obtained as a light yellow oil after purification by chromatography (silica, heptane:ethyl acetate=1:0 to 2:1). MS: m/e=384.3 [M−H]−.

reactant | 6-(3-butyl-5-methyl-isoxazol-4-ylmethoxy)-nicotinic acid | 0.34 mmol, 100 mg | C(CCC)C1=NOC(=C1COC1=NC=C(C(=O)O)C=C1)C | C15H18N2O4
reactant | L-2,2,2-trifluoro-1-(methyl)ethylamine | CC(C(F)(F)F)N | C3H6F3N
product | 6-((3-Butyl-5-methyl-isoxazol-4-yl)methoxy)-N—((S)-2,2,2-trifluoro-1-methyl-ethyl)-nicotinamide | 81 mg, 61% | C(CCC)C1=NOC(=C1COC1=NC=C(C(=O)N[C@H](C(F)(F)F)C)C=C1)C | C18H22F3N3O3
